US04082751
2-(5-Nitro-2-n-propoxyphenyl)-5-(5-1H tetrazolyl)pyrimidin-4(3H)-one
2-(2-n-Propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one (1.03 g., 3.46 mmoles) was added over a period of 20 minutes to a cooled (5°) mixture of 70% nitric acid (1.7 ml., 26.9 mmoles) and concentrated sulfuric acid (2 ml.). The mixture was allowed to stand at room temperature for 2 hours. The mixture was poured onto ice-water (200 ml.). The precipitate was recrystallized from 2-methoxyethanol to give the title compound (0.73 g., 61.3%), m.p. 251°-252° (decomp).

reactant | 2-(2-n-Propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one | 3.46 mmoles, 1.03 g | C(CC)OC1=C(C=CC=C1)C1=NC=C(C(N1)=O)C1=NN=NN1 | C14H14N6O2
reactant | nitric acid | 26.9 mmoles, 1.7 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(5-Nitro-2-n-propoxyphenyl)-5-(5-1H tetrazolyl)pyrimidin-4(3H)-one | 0.73 g, 61.3% | [N+](=O)([O-])C=1C=CC(=C(C1)C1=NC=C(C(N1)=O)C1=NN=NN1)OCCC | C14H13N7O4
